* ============================================================
* Circuit : VCO_type2_65
* Source  : ALIGN analog layout examples
* File    : VCO_type2_65\VCO_type2_65.sp
* ============================================================
* Stats:
*   Subcircuits  : 2
*   Devices (M)  : 4
*   Device types : nmos_lvt pmos_lvt
*   Passives     : 0 resistors, 0 capacitors
* Note: Converted from FinFET-style to CMOS-style netlist.
* SIZES CONVERTED 2026-07-10 scale=7.14286 source_L_ref=0.014um
*       Device/passive sizes are scaled from the real source-netlist values
*       (see marker above) -- not random placeholders.
* ============================================================

* --- DEVICE PARAMETERS ---
.param three_terminal_inv_MN34_M=1 three_terminal_inv_MN34_L=0.1
.param three_terminal_inv_MN33_M=1 three_terminal_inv_MN33_L=0.1
.param three_terminal_inv_MP34_M=1 three_terminal_inv_MP34_L=0.1
.param three_terminal_inv_MP33_M=1 three_terminal_inv_MP33_L=0.1


* --- CIRCUIT DEFINITION ---
* 
.param nfin=14 rres=2k lastt=60n fin_n_diff2sing=12 fin_p_diff2sing=12     width_n_diff2sing=10 width_p_diff2sing=16 fin_n_vco_type_2=12     fin_p_vco_type_2=12 fnnn=36 fppp=8 VDD=0.8 VBIAS=0.7 wpppn=1 wnnn=1


.subckt three_terminal_inv VDDA VSSA VBIAS VIN VOUT
.param _ar0=1 _ar1=1 _ar2=1 _ar3=1 _ar4=1 _ar5=1
    MN34 VOUT VIN net1 VSSA nmos_lvt M={three_terminal_inv_MN34_M} L={three_terminal_inv_MN34_L} W=_ar0 Nf=_ar2
    MN33 net1 VIN VSSA VSSA nmos_lvt M={three_terminal_inv_MN33_M} L={three_terminal_inv_MN33_L} W=_ar0 Nf=_ar2
    MP34 VOUT VBIAS net2 VDDA pmos_lvt M={three_terminal_inv_MP34_M} L={three_terminal_inv_MP34_L} W=_ar3 Nf=_ar4
    MP33 net2 VBIAS VDDA VDDA pmos_lvt M={three_terminal_inv_MP33_M} L={three_terminal_inv_MP33_L} W=_ar3 Nf=_ar4
.ends three_terminal_inv
* End of subcircuit definition.

* Library name: CAD_modules
* Cell name: VCO_type2_12
* View name: schematic
.subckt VCO_type2_65 VDDA VSSA o<1> o<2> o<3> o<4> o<5> o<6> o<7> o<8> op<1> VBIAS
.param _ar0=fin_p_diff2sing _ar1=width_p_diff2sing _ar2=fin_n_diff2sing _ar3=width_n_diff2sing _ar4=fppp _ar5=wppn
    xI1<1> VDDA VSSA VBIAS o<1> o<2> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<2> VDDA VSSA VBIAS o<2> o<3> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<3> VDDA VSSA VBIAS o<3> o<4> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<4> VDDA VSSA VBIAS o<4> o<5> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<5> VDDA VSSA VBIAS o<5> o<6> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<6> VDDA VSSA VBIAS o<6> o<7> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<7> VDDA VSSA VBIAS o<7> o<8> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<8> VDDA VSSA VBIAS o<8> op<1> three_terminal_inv _ar0=_ar0 _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
.ends VCO_type2_65

